US03985750
8-Methylthio-10-[4-(3-hexadecanoyloxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin
To a solution of 14.0 grams of 8-methylthio-10-[4-(3-hydroxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin in a mixture of 20 milliliters of chloroform and 60 milliliters of benzene was added 19.2 grams of palmitoyl chloride (hexadecanoyl chloride) and the mixture was allowed to stand at room temperature overnight. Thereafter the mixture was heated at a temperature of 60°C for a period of 2 hours. After cooling, the mixture was added to 100 milliliters of water containing 10 milliliters of concentrated aqueous ammonium hydroxide solution, and the mixture was extracted with benzene. The extract was then washed with water, dried over anhydrous potassium carbonate, and the solvent was evaporated therefrom. The residue which included the desired ester was dissolved as completely as possible in benzene and the solution was subjected to chromatographic separation in an alumina column which was then eluted with benzene. From the benzene extract, 14.4 grams of pure 8-methylthio-10-[4-(3-hexadecanoyloxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin was recovered. The palmitic acid with which the product was contaminated was substantially completely adsorbed on the alumina column. The crude base was converted into the crystalline di(hydrogen maleate) in accordance with the general procedure described in the foregoing Examples. The yield of the salt which, after recrystallization from acetone, had a melting point of 126°-127°C, was 14.4 grams. The pure base was recovered in the form of a colorless viscous liquid by subsequent treatment of the salt with a dilute aqueous ammonium hydroxide solution and extraction with benzene.

reactant | 8-methylthio-10-[4-(3-hydroxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin | 14.0 grams | CSC=1C=CC2=C(C(CC3=C(S2)C=CC=C3)N3CCN(CC3)CCCO)C1 | C22H28N2OS2
reactant | palmitoyl chloride | 19.2 grams | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | water | 100 milliliters | O | H2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | chloroform | 20 milliliters | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 60 milliliters | C1=CC=CC=C1 | C6H6
product | 8-Methylthio-10-[4-(3-hexadecanoyloxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin | CSC=1C=CC2=C(C(CC3=C(S2)C=CC=C3)N3CCN(CC3)CCCOC(CCCCCCCCCCCCCCC)=O)C1 | C38H58N2O2S2
